US08530675B2
Treatment of tetrachlorophthalic anhydride (5 g, 17.48 mmol), 4-chlororesorcinol (2.78 g, 19.23 mmol) and resorcinol (2.12 g, 19.23 mmol) according to the procedure described in Example 1 Step 1 provided 7.24 g of 18.6% pure 2′,4,5,6,7-pentachloro-3′,6′-dihydroxy-3H-spiro[isobenzofuran-1,9′-xanthen]-3-one that was collected and taken to the next step as a mixture.

reactant | tetrachlorophthalic anhydride | 17.48 mmol, 5 g | ClC=1C(=C(C(=C2C1C(=O)OC2=O)Cl)Cl)Cl | C8Cl4O3
reactant | 4-chlororesorcinol | 19.23 mmol, 2.78 g | ClC1=C(C=C(O)C=C1)O | C6H5ClO2
reactant | resorcinol | 19.23 mmol, 2.12 g | C1(O)=CC(O)=CC=C1 | C6H6O2
product | 2′,4,5,6,7-pentachloro-3′,6′-dihydroxy-3H-spiro[isobenzofuran-1,9′-xanthen]-3-one | 7.24 g, 18.6% | ClC1=CC=2C3(C4=CC=C(C=C4OC2C=C1O)O)OC(C1=C(C(=C(C(=C13)Cl)Cl)Cl)Cl)=O | C20H7Cl5O5
